US07598264B2
Step 6: 6-(4-Fluorobenzyl)-4-methoxy-5-oxo-5,6,7,8-tetrahydro-2,6-naphthyridine-1-carboxylic acid
To a solution of ethyl 6-(4-fluorobenzyl)-4-methoxy-5-oxo-5,6,7,8-tetrahydro-2,6-naphthyridine-1-carboxylate (1.21 g, 3.38 mmol) in methanol (5 mL) and water (5 mL) and THF (5 mL) was added lithium hydroxide (0.425 g, 10.13 mmol). After 5 minutes, 1N HCl (3 equiv.) was added to the product mixture, which was then dried under vacuum to provide the crude title compound.

reactant | ethyl 6-(4-fluorobenzyl)-4-methoxy-5-oxo-5,6,7,8-tetrahydro-2,6-naphthyridine-1-carboxylate | 3.38 mmol, 1.21 g | FC1=CC=C(CN2C(C=3C(=CN=C(C3CC2)C(=O)OCC)OC)=O)C=C1 | C19H19FN2O4
reactant | lithium hydroxide | 10.13 mmol, 0.425 g | [OH-].[Li+]
reactant | HCl | 1N, 3 equiv. | Cl | ClH
solvent | methanol | 5 mL | CO | CH4O
solvent | water | 5 mL | O | H2O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 6-(4-Fluorobenzyl)-4-methoxy-5-oxo-5,6,7,8-tetrahydro-2,6-naphthyridine-1-carboxylic acid | FC1=CC=C(CN2C(C=3C(=CN=C(C3CC2)C(=O)O)OC)=O)C=C1 | C17H15FN2O4
